US07897612B2
16a) Ethyl 3-oxo-3-[(phenylmethyl)amino]propanoate
A solution of benzylamine (1.10 g, 10.3 mmol) and ethyl malonyl chloride (1.29 mL, 10.3 mmol) in dichloromethane (10 mL) was treated with triethylamine (1.44 mL, 10.3 mmol). The solution was stirred at ambient temperature for 1 h and then diluted with saturated aqueous sodium bicarbonate and extracted with ethyl acetate (3×20 mL). The combined organic portions were dried over magnesium sulfate, filtered, and concentrated in vacuo to obtain the title compound as a yellow oil (2.27 g, 100%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.55 (br. s., 1H), 7.24-7.36 (m, 5H), 4.45 (d, J=5.6 Hz, 2H), 4.17 (q, J=7.2 Hz, 2H), 3.31 (s, 2H), 1.27 (t, J=7.2 Hz, 3H). MS(ES+) m/e 222 [M+H]+.

reactant | benzylamine | 10.3 mmol, 1.10 g | C(C1=CC=CC=C1)N | C7H9N
reactant | ethyl malonyl chloride | 10.3 mmol, 1.29 mL | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | triethylamine | 10.3 mmol, 1.44 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Ethyl 3-oxo-3-[(phenylmethyl)amino]propanoate | 2.27 g, 100% | O=C(CC(=O)OCC)NCC1=CC=CC=C1 | C12H15NO3
